US07141598B2
Production of 7-(4′-fluoro[1,1′-biphenyl]-3-yl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-ol
A solution (1.6 M; 1.98 ml) of n-butyl lithium in hexane was gently added dropwise to a solution of 3-bromo-4′-fluoro-1,1′-biphenyl (753 mg) in THF (10 ml) at −78° C., and the mixture was stirred at −78° C. for 30 min. A solution of 5,6-dihydro-7Hpyrrolo[1,2-c]imidazol-7-one (244 mg) in THF (10 ml) solution was gently added dropwise and the mixture was stirred at −78° C. for 1 h. A saturated aqueous ammonium chloride solution was added to the reaction mixture and the mixture was extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent, ethyl acetate→ethyl acetate:methanol=5:1) and recrystallized from acetone-hexane to give the title compound (265 mg) as colorless needle crystals.

reactant | n-butyl lithium | 1.6 M, 1.98 ml | C(CCC)[Li]
reactant | 3-bromo-4′-fluoro-1,1′-biphenyl | 753 mg | BrC=1C=C(C=CC1)C1=CC=C(C=C1)F | C12H8BrF
reactant | 5,6-dihydro-7Hpyrrolo[1,2-c]imidazol-7-one | 244 mg | C1=C2N(C=N1)CCC2=O | C6H6N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-(4′-fluoro[1,1′-biphenyl]-3-yl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-ol | 265 mg | FC1=CC=C(C=C1)C1=CC(=CC=C1)C1(CCN2C=NC=C21)O | C18H15FN2O
